US07091227B2
N-Ethyl-N′-[7-(phenylsulfanyl)-1,3-benzothiazol-2-yl]urea
To a mixture of N-ethyl-N′-[7-(phenylsulfanyl)-4,5-dihydro-1,3-benzothiazol-2-yl]urea (crude product from the previous reaction, 1.59 mmol) in toluene (35.0 mL) was added DDQ (500 mg, 2.17 mmol). The reaction mixture was stirred at about 20° C. for about 2 hrs. The toluene was removed in vacuo and the crude material was taken up in CH2Cl2. The organic phase was washed with 0.5 M NaOH (2 times) and dried over MgSO4. The crude oil was purified by flash chromatography on SiO2 (EtOAc/CH2Cl2 5/95). 445 mg (85%, 2 steps) of pure product was isolated. LC/MS 330 (MH+); RP-HPLC RT 17.56 min.

reactant | N-ethyl-N′-[7-(phenylsulfanyl)-4,5-dihydro-1,3-benzothiazol-2-yl]urea | C(C)NC(=O)NC=1SC2=C(N1)CCC=C2SC2=CC=CC=C2 | C16H17N3OS2
reactant | DDQ | 2.17 mmol, 500 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 35.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-Ethyl-N′-[7-(phenylsulfanyl)-1,3-benzothiazol-2-yl]urea | C(C)NC(=O)NC=1SC2=C(N1)C=CC=C2SC2=CC=CC=C2 | C16H15N3OS2
